US08034945B2
(a). 4-Amino-3-nitro-benzaldehyde
4-Fluoro-3-nitrobenzaldehyde (3 g) was slowly added to 50 ml of conc. aq. NH4OH. After stirring for 3 h, the mixture was diluted with water and extracted with dichloromethane. The organic layer was dried (MgSO4), filtered and concentrated in vacuo. The residue was purified by chromatography on silicagel in heptane/ethyl acetate 1/0→0/1 (v/v) as eluent.

reactant | 4-Fluoro-3-nitrobenzaldehyde | 3 g | FC1=C(C=C(C=O)C=C1)[N+](=O)[O-] | C7H4FNO3
reactant | NH4OH | 50 ml | [NH4+].[OH-]
solvent | water | O | H2O
product | 4-Amino-3-nitro-benzaldehyde | NC1=C(C=C(C=O)C=C1)[N+](=O)[O-] | C7H6N2O3
